US06235771B1
Under argon atmosphere, methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.70 g), a mixture of 4-chlorophenyl borate (0.38 g) and potassium carbonate (0.59 g) in toluene/ethanol/water (20/2/2 ml) was stirred at room temperature for 1 hour. To the mixture was added tetrakistriphenylphosphinepalladium (0.12 g), and the mixture was refluxed for 20 hours, cooled, extracted with ethyl acetate, washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with column chromatography (ethyl acetate/hexane=1:1) and recrystallized from ethyl acetate/hexane to give to give pale yellow crystals of methyl 7-(4-chlorophenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (466 mg).

reactant | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.70 g | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
reactant | 4-chlorophenyl borate | 0.38 g | B(OC1=CC=C(C=C1)Cl)([O-])[O-]
reactant | potassium carbonate | 0.59 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 2 ml | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakistriphenylphosphinepalladium | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 7-(4-chlorophenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 466 mg | ClC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C18H15ClO4S
